** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/ideal_diode.sch
.subckt ideal_diode VDD VSS VIN VOUT iB VREF
*.PININFO VDD:B VIN:I VOUT:O VSS:B VREF:B iB:B
D1 opout VOUT DP A=51.84p P=57.6u
D2 VREF opout DP A=51.84p P=57.6u
C2 VOUT opout VSS F_CSIO C=5.4e-13 A=900p P=120u X=29.9999996628 Y=30.0000003372 m=1
XR1 VOUT VREF VDD F_RR R=19.25 L=77u W=4u A=308p P=162u m=1
x1 VDD VSS VIN VOUT opout iB cascode_opamp_2
.ends

* expanding   symbol:  cascode_opamp_2.sym # of pins=6
** sym_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/cascode_opamp_2.sym
** sch_path: /home/taka/ISHI_Kai/TokaiRIKA_TR10/ISHI-KAI_Multiple_Projects_OpenMPW_OpenSUSI-TR10-1/member_project/AM_Radio/Yamada3/xschem/cascode_opamp_2.sch
.subckt cascode_opamp_2 VDD VSS VIN_P VIN_N VOUT iB
*.PININFO VOUT:O VIN_N:I VIN_P:I VSS:I VDD:I iB:I
MM2 net2 net1 VDD VDD PMOS w=30u l=1u nrd=0 nrs=0 m=1
MM4 OUT1 VB2 net5 VSS NMOS w=10u l=1u nrd=0 nrs=0 m=1
MM7 VOUT iB VDD VDD PMOS w=300u l=1u nrd=0 nrs=0 m=1
MM8 VOUT OUT1 VSS VSS NMOS w=200u l=1u nrd=0 nrs=0 m=1
MM16 net1 net1 VDD VDD PMOS w=30u l=1u nrd=0 nrs=0 m=1
MM17 OUT1 net3 net2 VDD PMOS w=30u l=1u nrd=0 nrs=0 m=1
MM18 net3 net3 net1 VDD PMOS w=30u l=1u nrd=0 nrs=0 m=1
MM19 net3 VB2 net4 VSS NMOS w=10u l=1u nrd=0 nrs=0 m=1
MM20 net5 VIN_P net6 VSS NMOS w=80u l=1u nrd=0 nrs=0 m=1
MM21 net4 VIN_N net6 VSS NMOS w=80u l=1u nrd=0 nrs=0 m=1
MM22 net6 VB1 VSS VSS NMOS w=10u l=1u nrd=0 nrs=0 m=1
MM3 net7 net11 OUT1 VSS NMOS w=20u l=1u nrd=0 nrs=0 m=1
MM6 net8 net8 VSS VSS NMOS w=20u l=1u nrd=0 nrs=0 m=1
MM13 VB2 VB2 VB1 VSS NMOS w=10u l=1u nrd=0 nrs=0 m=1
MM14 VB1 VB1 VSS VSS NMOS w=10u l=1u nrd=0 nrs=0 m=1
MM23 VB4 VB4 VDD VDD PMOS w=30u l=1u nrd=0 nrs=0 m=1
MM24 VB2 iB net9 VDD PMOS w=30u l=1u nrd=0 nrs=0 m=1
MM25 net9 VB4 VDD VDD PMOS w=30u l=1u nrd=0 nrs=0 m=1
MM26 iB iB VB4 VDD PMOS w=30u l=1u nrd=0 nrs=0 m=1
MM1 net11 iB net10 VDD PMOS w=30u l=1u nrd=0 nrs=0 m=1
MM9 net10 VB4 VDD VDD PMOS w=30u l=1u nrd=0 nrs=0 m=1
MM5 net11 net11 net8 VSS NMOS w=20u l=1u nrd=0 nrs=0 m=1
XC1 net7 VOUT VSS F_CSIO C=5.4e-13 A=900p P=120u X=29.9999996628 Y=30.0000003372 m=1
.ends

